
.subckt XNOR node_a node_b node_out vdd gnd
 
 X1 node_a node_b node_c vdd gnd XOR
 X2 node_c node_out vdd gnd NOT

 C5 node_out gnd 100f

.ends XNOR