
.subckt XOR node_a node_b node_out vdd gnd

X1 node_a node_b node_c vdd gnd NAND
X2 node_a node_c node_d vdd gnd NAND
X3 node_b node_c node_e vdd gnd NAND
X4 node_e node_d node_out vdd gnd NAND

C1 node_out gnd 100f
.ends XOR