
.subckt addsub node_a node_b node_cin node_c node_s vdd gnd

X2 node_b node_a node_t1 vdd gnd XOR
X3 node_cin node_t1 node_s vdd gnd XOR
X4 node_a node_b node_t2 vdd gnd AND
X5 node_cin node_t1 node_cout vdd gnd AND
X6 node_t2 node_cout node_c vdd gnd OR

.ends addsub