
.subckt andblock node_a0 node_a1 node_a2 node_a3 node_b0 node_b1 node_b2 node_b3 node_o0 node_o1 node_o2 node_o3 vdd gnd

X1 node_a0 node_b0 node_o0 vdd gnd AND
X2 node_a1 node_b1 node_o1 vdd gnd AND
X3 node_a2 node_b2 node_o2 vdd gnd AND
X4 node_a3 node_b3 node_o3 vdd gnd AND

.ends andblock