

.subckt decoder node_s0 node_s1 node_D0 node_D1 node_D2 node_D3 vdd gnd

X1 node_s0 node_c vdd gnd NOT
X2 node_s1 node_d vdd gnd NOT

X3 node_c node_d node_D0 vdd gnd AND
X4 node_s0 node_d node_D1 vdd gnd AND
X5 node_c node_s1 node_D2 vdd gnd AND
X6 node_s0 node_s1 node_D3 vdd gnd AND

.ends decoder