
.subckt enable node_a0 node_a1 node_a2 node_a3 node_b0 node_b1 node_b2 node_b3 node_E node_Af0 node_Af1 node_Af2 node_Af3 node_Bf0 node_Bf1 node_Bf2 node_Bf3 vdd gnd
X1 node_a0 node_E node_Af0 vdd gnd AND
X2 node_a1 node_E node_Af1 vdd gnd AND
X3 node_a2 node_E node_Af2 vdd gnd AND
X4 node_a3 node_E node_Af3 vdd gnd AND

X5 node_b0 node_E node_Bf0 vdd gnd AND
X6 node_b1 node_E node_Bf1 vdd gnd AND
X7 node_b2 node_E node_Bf2 vdd gnd AND
X8 node_b3 node_E node_Bf3 vdd gnd AND

.ends enable
